US03956277
6-mercapto-9-(β-D-arabinofuranosyl)purine is reacted at room temperature with methyl iodide in dimethyl sulphoxide in the presence of anhydrous potassium carbonate to give 6-methylthio-9-(β-D-arabinofuranosyl)purine, m.p. 99°-101° C.

reactant | 6-mercapto-9-(β-D-arabinofuranosyl)purine | SC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO | C10H12N4O4S
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 6-methylthio-9-(β-D-arabinofuranosyl)purine | CSC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO | C11H14N4O4S
